US07544693B2
3-Hydroxy-picolinic acid (15.6 g, 42.1 mmol), ethanol (360 mL), benzene (100 mL) and 98% sulfuric acid (6 mL) were heated under reflux for 40 h. After evaporation of the ethanol and benzene, the residue was dissolved in water, neutralized with sodium bicarbonate, and extracted with chloroform. The organic layer was dried (MgSO4), filtered, and then the solvent was evaporated to give ethyl 3-hydroxy-picolinate as a brown oily residue (11.0 g).

reactant | 3-Hydroxy-picolinic acid | 42.1 mmol, 15.6 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | ethanol | 360 mL | C(C)O | C2H6O
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | ethyl 3-hydroxy-picolinate | OC=1C(=NC=CC1)C(=O)OCC | C8H9NO3
